US08314253B2
1.7 rac-(1R*,8R*,9R*)-9-(2-Hydroxy-ethyl)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol
A solution of 2.6 g of rac-(1R*,8R*,9R*)-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-acetic acid tert-butyl ester in 10 mL of THF was added to 15.3 mL of a 1M LiAlH4 solution in THF at −10° C. The mixture was stirred for 4 h while the temperature reached slowly 0° C. The reaction was quenched by addition of a 15% aq. NaOH solution. The mixture was diluted with EtOAc, washed with H2O, dried over MgSO4 and concentrated in vacuo to obtain 1.6 g of the desired compound as white solid.

reactant | rac-(1R*,8R*,9R*)-(9-hydroxy-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-yl)-acetic acid tert-butyl ester | 2.6 g | C(C)(C)(C)OC(CC1(C2C3=CC=CC=C3C(C1)CC2)O)=O | C18H24O3
reactant | LiAlH4 | 1M | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | rac-(1R*,8R*,9R*)-9-(2-Hydroxy-ethyl)-tricyclo[6.2.2.02,7]dodeca-2,4,6-trien-9-ol | 1.6 g | OCCC1(C2C3=CC=CC=C3C(C1)CC2)O | C14H18O2
